data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
3137,3535,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][C:8]#[N+:9][N-:10][c:11]1[cH:12][cH:13][cH:14][cH:15][cH:16]1>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:8]([CH3:7])=[N:9][N:10]1[c:11]1[cH:12][cH:13][cH:14][cH:15][cH:16]1,water,298.15,18.419578124503943,-26.1746096484274
4958,5644,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][CH-:16][N+:17]([CH3:18])=[C:19]([C:20]([CH3:21])=[O:22])[C:23](=[O:24])[O:25][CH3:26]>>[C:1]1(=[O:2])[C@:3]2([O:4][CH3:5])[C@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[CH:16]([CH3:15])[N:17]([CH3:18])[C:19]2([C:20]([CH3:21])=[O:22])[C:23](=[O:24])[O:25][CH3:26],water,298.15,29.44620240311119,8.868584341388788
123,139,[CH3:1][C:2]#[C:3][Br:4].[CH3:5][CH-:6][O+:7]=[C:8]([CH3:9])[C:10](=[O:11])[O:12][CH3:13]>>[CH3:1][C:2]1=[C:3]([Br:4])[C:8]([CH3:9])([C:10](=[O:11])[O:12][CH3:13])[O:7][CH:6]1[CH3:5],water,298.15,15.670447100148785,-81.32819150208181
4248,4859,[CH3:10][O:11][C:12](=[O:13])[C-:14]([O+:15]=[CH:16][C:17]#[N:18])[C:19](=[O:20])[O:21][CH3:22].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:14]([C:12]([O:11][CH3:10])=[O:13])([C:19](=[O:20])[O:21][CH3:22])[O:15][CH:16]1[C:17]#[N:18],water,298.15,3.881076656546389,-46.89166967150413
4804,5483,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[C:15]([CH3:16])=[NH+:17][C-:18]([C:19]#[N:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1>>[CH2:1]1[C@H:2]2[C@@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:18]([C:19]#[N:20])([c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[NH:17][C:15]2([C:13]([NH:12][CH3:11])=[O:14])[CH3:16],water,298.15,24.46824686766294,-15.446360886197091
1393,1534,[CH3:15][C:16](=[O:17])[c-:18]1[o+:19][c:20]([C:21]#[N:22])[o:23][c:24]1=[O:25].[CH3:1][C:2](=[O:3])[C:4]1([Cl:5])[C:6]#[C:7][C:8]([CH3:9])([CH3:10])[CH2:11][CH2:12][CH2:13][CH2:14]1>>[CH3:1][C:2](=[O:3])[C:4]1([Cl:5])[C:6]2=[C:7]([C:8]([CH3:9])([CH3:10])[CH2:11][CH2:12][CH2:13][CH2:14]1)[C:20]1([C:21]#[N:22])[O:19][C:18]2([C:16]([CH3:15])=[O:17])[C:24](=[O:25])[O:23]1,water,298.15,14.894198087175246,-26.566177139425587
269,293,[CH3:11][C:12](=[O:13])[CH-:14][N+:15]([CH3:16])=[CH:17][C:18]#[N:19].[CH3:1][O:2][C:3]1=[C:4]([CH3:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[CH3:1][O:2][C:3]1=[C:4]([CH3:5])[CH:6]2[CH:7]3[CH:8]([CH:9]1[O:10]2)[CH:17]([C:18]#[N:19])[N:15]([CH3:16])[CH:14]3[C:12]([CH3:11])=[O:13],water,298.15,11.070886125184726,-43.96391100872839
466,508,[CH2:11]=[N+:12]([CH3:13])[C-:14]([C:15]([CH3:16])=[O:17])[C:18]([CH3:19])=[O:20].[N:1]#[C:2][C:3]1=[C:4]([Cl:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[N:1]#[C:2][C:3]12[C:4]([Cl:5])([CH:6]3[CH:7]=[CH:8][CH:9]1[O:10]3)[C:14]([C:15]([CH3:16])=[O:17])([C:18]([CH3:19])=[O:20])[N:12]([CH3:13])[CH2:11]2,water,298.15,21.378534969878714,-23.863277880108427
190,207,[CH3:1][NH:2][C:3](=[O:4])[C:5]#[C:6][O:7][CH3:8].[CH3:9][C:10](=[O:11])[c:12]1[o:13][c:14](=[O:15])[c-:16]([CH3:17])[o+:18]1>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([O:7][CH3:8])[C:16]2([CH3:17])[C:14](=[O:15])[O:13][C:12]1([C:10]([CH3:9])=[O:11])[O:18]2,water,298.15,15.845234905882451,-41.950633450507176
4070,4661,[CH3:10][O:11][C:12](=[O:13])[C:14]([C:15]#[N:16])=[N+:17]([CH3:18])[C-:19]([CH3:20])[CH3:21].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:19]([CH3:20])([CH3:21])[N:17]([CH3:18])[C:14]1([C:12]([O:11][CH3:10])=[O:13])[C:15]#[N:16],water,298.15,40.01143125141388,-0.1618571346182059
3755,4295,[CH3:6][C:7](=[O:8])[C:9]([C:10]#[N:11])=[O+:12][C-:13]([CH3:14])[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1.[NH2+:1]=[C:2]([NH2:3])[NH:4][CH3:5]>>[NH2+:1]1[C:2]([NH2:3])([NH:4][CH3:5])[C:9]([C:7]([CH3:6])=[O:8])([C:10]#[N:11])[O:12][C:13]1([CH3:14])[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1,water,298.15,30.343029970469782,21.46374921049837
1701,1881,[CH3:17][C:18](=[O:19])[CH-:20][N+:21]#[C:22][c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1.[CH3:1][NH:2][C:3](=[O:4])[C:5]1([O:6][CH3:7])[C:8]#[C:9][C:10]([CH3:11])([CH3:12])[CH2:13][CH2:14][CH2:15][CH2:16]1>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([O:6][CH3:7])[C:8]2=[C:9]([C:10]([CH3:11])([CH3:12])[CH2:13][CH2:14][CH2:15][CH2:16]1)[CH:20]([C:18]([CH3:17])=[O:19])[N:21]=[C:22]2[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1,water,298.15,15.030793173451231,-54.527709023005535
1133,1232,[CH3:10][NH:11][C:12](=[O:13])[C:14]([C:15](=[O:16])[O:17][CH3:18])=[N+:19]([CH3:20])[C-:21]([C:22]#[N:23])[C:24]#[N:25].[F:1][C:2]1=[C:3]([F:4])[CH:5]2[CH:6]=[CH:7][CH:8]1[O:9]2>>[F:1][C:2]1=[C:3]([F:4])[CH:5]2[CH:6]3[CH:7]([CH:8]1[O:9]2)[C:21]([C:22]#[N:23])([C:24]#[N:25])[N:19]([CH3:20])[C:14]3([C:12]([NH:11][CH3:10])=[O:13])[C:15](=[O:16])[O:17][CH3:18],water,298.15,15.03678404077986,-42.4160239829264
